US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 3-cyano-phenylboronic acid to give 3-[3-(5-methyl-1H-pyrazol-3-ylamino)-7-methoxy-isoquinolin-1-yl]-benzonitrile LC-MS m/e 356(MH+).

reactant | (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 3-cyano-phenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-[3-(5-methyl-1H-pyrazol-3-ylamino)-7-methoxy-isoquinolin-1-yl]-benzonitrile | CC1=CC(=NN1)NC=1N=C(C2=CC(=CC=C2C1)OC)C=1C=C(C#N)C=CC1 | C21H17N5O
